US08563570B2
Step 3. 1-tert-butyl 3-ethyl 3-{2-[(cis-4-hydroxycyclohexyl)amino]ethyl}piperidine-1,3-dicarboxylate
DIPEA (1.05 eq.) was added to a solution of cis-4-aminocyclohexanol hydrochloride (0.080 g, 0.53 mmol) in methanol (2.0 mL) and stirred for 5 min. To this solution 1-tert-butyl 3-ethyl 3-(2-oxoethyl)-piperidine-1,3-dicarboxylate (0.15 g, 0.5 mmol) was added followed by sodium triacetoxyborohydride (0.21 g, 1.0 mmol) and the mixture was stirred for 2 h. The reaction was acidified by adding AcOH and diluted with water and extracted with ether. The aqueous phase was then basified by adding 1 N NaOH and extracted with ethyl acetate which was then washed with water then brine, dried, and concentrated to give the desired product (0.17 g, 85%). LC-MS: 399.2 (M+H)+.

reactant | DIPEA | 1.05 eq. | CCN(C(C)C)C(C)C | C8H19N
reactant | cis-4-aminocyclohexanol hydrochloride | 0.53 mmol, 0.080 g | Cl.N[C@H]1CC[C@H](CC1)O
reactant | 1-tert-butyl 3-ethyl 3-(2-oxoethyl)-piperidine-1,3-dicarboxylate | 0.5 mmol, 0.15 g | O=CCC1(CN(CCC1)C(=O)OC(C)(C)C)C(=O)OCC | C15H25NO5
reactant | sodium triacetoxyborohydride | 1.0 mmol, 0.21 g | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
solvent | methanol | 2.0 mL | CO | CH4O
solvent | water | O | H2O
solvent | AcOH | CC(=O)O | C2H4O2
product | 1-tert-butyl 3-ethyl 3-{2-[(cis-4-hydroxycyclohexyl)amino]ethyl}piperidine-1,3-dicarboxylate | 0.17 g, 85% | O[C@H]1CC[C@H](CC1)NCCC1(CN(CCC1)C(=O)OC(C)(C)C)C(=O)OCC | C21H38N2O5
